US06936445B2
To 77 g of water were added 0.5 g of the immobilized enzyme produced in Example 1 above and 65 g of ethyl N-benzylazetidine-2-carboxylate, followed by stirring at 10° C. for 10 hours. To the reaction mixture, were added 65 g of methylisobutyl ketone and 36 g of ethanol, and further stirring was conducted for 30 minutes. The reaction mixture was thereafter filtrated, and the filtrate was subjected to separation. To the aqueous layer were added 65 g of methylisobutyl ketone and 6.5 g of ethanol followed by stirring for 30 minutes and the separation. This operation was repeated twice. Thus resulting aqueous layer was concentrated under a reduced pressure (10 kPa or lower) to give 60 g of crude (S)-N-benzylazetidine-2-carboxylic acid (43 weight %).

reactant | water | 77 g | O | H2O
reactant | ethyl N-benzylazetidine-2-carboxylate | 65 g | C(C1=CC=CC=C1)N1C(CC1)C(=O)OCC | C13H17NO2
reactant | methylisobutyl ketone | 65 g | CC(=O)CC(C)C | C6H12O
solvent | ethanol | 36 g | C(C)O | C2H6O
product | (S)-N-benzylazetidine-2-carboxylic acid | 60 g | C(C1=CC=CC=C1)N1[C@@H](CC1)C(=O)O | C11H13NO2
